US07230121B2
9-[4-(2,3-dihydroxy-propoxy)-phenyl]-thianthrenium hexafluorophosphate
To a 3 necked round bottom flask 0.2 g (438.6 mmol) of 9-(4-fluoro-phenyl)-thianthrenium hexafluorophosphate and 10 g of glycerol were added. The suspension was stirred at 120° C. until complete dissolution. Then 50 mg of potassium hydroxide were added and stirred for 10 minutes and the mixture was poured into water. Dichloromethane was added and the organic layer was washed and dried (Na2SO4). Removal of the solvent under vacuum gave a white solid (0.17 g, 73.4%).

reactant | 9-(4-fluoro-phenyl)-thianthrenium hexafluorophosphate | 438.6 mmol, 0.2 g | F[P-](F)(F)(F)(F)F.FC1=CC=C(C=C1)C=1C=CC=C2[SH+]C=3C=CC=CC3SC12
reactant | glycerol | 10 g | OCC(O)CO | C3H8O3
reactant | potassium hydroxide | 50 mg | [OH-].[K+]
reactant | water | O | H2O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 9-[4-(2,3-dihydroxy-propoxy)-phenyl]-thianthrenium hexafluorophosphate | 0.17 g, 73.4% | F[P-](F)(F)(F)(F)F.OC(COC1=CC=C(C=C1)C=1C=CC=C2[SH+]C=3C=CC=CC3SC12)CO | InChI=1S/C21H18O3S2.F6P/c22-12-15(23)13-24-16-10-8-14(9-11-16)17-4-3-7-20-21(17)26-19-6-2-1-5-18(19)25-20;1-7(2,3,4,5)6/h1-11,15,22-23H,12-13H2;/q;-1/p+1
